US03985750
8-Methylthio-10-[4-(3-octanoyloxypropyl)piperazino]-10,11-dihydrodibenzo[b,f]thiepin
In accordance with the general procedure described in the foregoing Examples, 14.0 grams of 8-methylthio-10-[4-(3-hydroxypropyl)piperazino]-10,11-dihydrodibenzo[b,f]thiepin was reacted with 12.2 grams of caprylyl chloride (octanoyl chloride) in a mixture of 20 milliliters of chloroform and 60 milliliters of benzene. After the reaction mixture had been allowed to stand for 4 days at room temperature, the reaction mixture was heated to a temperature of 60°C and further treated as described in the preceding Example. The recovered crude 8-methylthio-10-[4-(3-octanoyloxypropyl)piperazino]-10,11-dihydrodibenzo[b,f]thiepin was thereafter converted into the crystalline di(hydrogen maleate) as described in the foregoing Example. The salt was recovered in a yield of 13.7 grams and, after recrystallization from acetone, had a melting point of 122°-123°C. The pure base was recovered in the form of a viscous oil by treatment of the pure salt with a dilute aqueous solution of ammonium hydroxide as described in the foregoing Example.

reactant | 8-methylthio-10-[4-(3-hydroxypropyl)piperazino]-10,11-dihydrodibenzo[b,f]thiepin | 14.0 grams | CSC=1C=CC2=C(C(CC3=C(S2)C=CC=C3)N3CCN(CC3)CCCO)C1 | C22H28N2OS2
reactant | caprylyl chloride | 12.2 grams | C(CCCCCCC)(=O)Cl | C8H15ClO
solvent | chloroform | 20 milliliters | C(Cl)(Cl)Cl | CHCl3
solvent | benzene | 60 milliliters | C1=CC=CC=C1 | C6H6
product | 8-Methylthio-10-[4-(3-octanoyloxypropyl)piperazino]-10,11-dihydrodibenzo[b,f]thiepin | CSC=1C=CC2=C(C(CC3=C(S2)C=CC=C3)N3CCN(CC3)CCCOC(CCCCCCC)=O)C1 | C30H42N2O2S2
